US07723368B2
A 25 mL round bottom flask was charged with 4-(2-fluoro-5-((triisopropylsilyl)ethynyl)phenyl)morpholine (0.540 g, 1.50 mmol), diluted with tetrahydrofuran (THF, 1.5 ml) at room temperature. A 1M solution of tetrabutylammonium fluoride in THF (2.0 mL) was added. After 105 minutes reaction the mixture was partitioned between ethylacetate and water, separated, dried with sodium sulfate, and concentrated to an oil by rotary evaporation to yield 0.305 g of 4-(5-ethynyl-2-fluorophenyl)morpholine.

reactant | 4-(2-fluoro-5-((triisopropylsilyl)ethynyl)phenyl)morpholine | 1.50 mmol, 0.540 g | FC1=C(C=C(C=C1)C#C[Si](C(C)C)(C(C)C)C(C)C)N1CCOCC1 | C21H32FNOSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
solvent | THF | 2.0 mL | O1CCCC1 | C4H8O
product | 4-(5-ethynyl-2-fluorophenyl)morpholine | 0.305 g | C(#C)C=1C=CC(=C(C1)N1CCOCC1)F | C12H12FNO
